US08283364B2
2,3-Difluoro-4-nitrophenylacetic acid (D16)
The mixture of diethyl 2-(2,3-difluoro-4-nitrophenyl)malonate and diethyl 2-(2,3-difluoro-6-nitrophenyl)malonate from D15 (0.5 g) was heated with 11M hydrochloric acid (5 ml) at reflux overnight then evaporated to give 320 mg of the title compound (pale yellow solid) as a 1:1 mixture with 2,3-difluoro-6-nitrophenylacetic acid. M−−CO2H=172.

reactant | diethyl 2-(2,3-difluoro-4-nitrophenyl)malonate | FC1=C(C=CC(=C1F)[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C13H13F2NO6
reactant | diethyl 2-(2,3-difluoro-6-nitrophenyl)malonate | FC1=C(C(=CC=C1F)[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C13H13F2NO6
reactant | hydrochloric acid | 11M, 5 ml | Cl | ClH
product | 2,3-Difluoro-4-nitrophenylacetic acid | 320 mg | FC1=C(C=CC(=C1F)[N+](=O)[O-])CC(=O)O | C8H5F2NO4
